US04075199
To a solution of 72.5 grams (1.1 moles) of 85% potassium hydroxide in 175 ml. of water, cooled to 15° C in a 2 liter jacketed reactor was added 140 grams (1.4 moles) of 90% t-butylhydroperoxide slowly and with rapid stirring. The temperature was held at 20°-25° C by the rate of addition and by circulating 15° C water through the reactor jacket. After the addition was complete, the reaction was stirred for 15 minutes at 15° C and then 165 grams (1.015 moles) of 2-t-butylazo-2-chloropropane was added dropwise over a 30 minute period holding the reaction temperature at 18°-20° C. After the addition was complete the reaction was stirred for 15 minutes at 18° C. It was then cooled to 0°-5° C and stirred for 90 minutes. A 0.3 mole (24 grams) portion of 50% NaOH was then added and the reaction stirred for 15 minutes. Ice water was then added until the potassium chloride dissolved. The mixture was extracted with 300 ml. of pentane, the pentane extract washed with ice cold water, saturated NaHCO3 solution, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure at 10° C to leave 187 grams (86% yield) of crude 2-t-butylazo-2-(t-butylperoxy)-propane. A pure sample of the azo-peroxide was obtained by low temperature recrystallization from reagent grade pentane. The recrystallization was repeated two more times and the purified material was used as an analytical standard. The crude azo-peroxide assayed 77.1% when compared with the analytical standard using an infrared analysis technique. The crude azo-peroxide was then diluted to 50% in cold odorless mineral spirits for safety reasons. The pure azo-peroxide is very shock sensitive and is also sensitive to acids and metal ions. The compound decomposes thermally at room temperature and must be stored at least at 0° C and for any prolonged storage at -20° C or below.

reactant | potassium hydroxide | 1.1 moles, 72.5 grams | [OH-].[K+]
reactant | t-butylhydroperoxide | 1.4 moles, 140 grams | C(C)(C)(C)OO | C4H10O2
reactant | 2-t-butylazo-2-chloropropane | 1.015 moles, 165 grams | C(C)(C)(C)N=NC(C)(C)Cl | C7H15ClN2
reactant | NaOH | [OH-].[Na+]
reactant | potassium chloride | [Cl-].[K+]
solvent | water | O | H2O
product | 2-t-butylazo-2-(t-butylperoxy)-propane | 187 grams, 86% yield | C(C)(C)(C)N=NC(C)(C)OOC(C)(C)C | C11H24N2O2
